US08097613B2
e) 5-(7-Azidomethyl-1,1-dioxo-1,4-dihydro-1,6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one
To a solution of (1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-5-(7-hydroxymethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one (0.38 g, 0.76 mmol) in dichloromethane (9 mL) at 0° C. was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.60 mL, 4.03 mmol) and diphenylphosphoryl azide (0.84 mL, 3.88 mmol). The reaction was stirred at 25° C. overnight. The reaction was quenched with 1.0 M aqueous hydrochloric acid solution (10 mL). The resulting mixture was extracted with dichloromethane (3×10 mL). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (Teledyne Isco RediSep column; 0-1% methanol in dichloromethane) to afford the desired product, (1R,2S,7R,8S)-5-(7-azidomethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one (0.21 g, 0.40 mmol, 52%), as a white solid. 1H NMR (400 MHz, CDCl3) δ: 1.18-1.78 (6H, m), 2.56-2.57 (1H, m), 2.82-2.87 (2H, m), 3.47 (1H, d, J=9.6 Hz), 4.21 (1H, d, J=14.8 Hz), 4.67 (2H, s), 5.15 (1H, d, J=14.4 Hz), 7.00-7.07 (2H, m), 7.19-7.23 (2H, m), 7.32-7.36 (1H, m).

reactant | (1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-5-(7-hydroxymethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one | 0.76 mmol, 0.38 g | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=C(C2=O)C2=NS(C3=C(N2)SC=C3CO)(=O)=O)O)C4)C=C1 | C23H22FN3O5S2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.03 mmol, 0.60 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | diphenylphosphoryl azide | 3.88 mmol, 0.84 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | (1R,2S,7R,8S)-5-(7-azidomethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one | 0.40 mmol, 0.21 g, 52% | N(=[N+]=[N-])CC1=CSC=2NC(=NS(C21)(=O)=O)C=2C(N([C@H]1[C@@H]3CC[C@H]([C@H]1C2O)C3)CC3=CC=C(C=C3)F)=O | C23H21FN6O4S2
